US05981545
(±) 5-(5-Bromotetrazol-2-yl)-1-azabicyclo[3.2.1]octane (E50)
5-(Tetrazol-2-yl)-1-azabicyclo[3.2.1]octane (the free base of E29) (0.2 g, 1.12 mmol) was converted to the 5-bromotetrazole according to the method of Example 40. Chromatography on silica using 4% methanol/chloroform afforded the title compound (E50) as a white crystalline solid (0.16 g, 56%) m.p. 108-110° C.

reactant | 5-(Tetrazol-2-yl)-1-azabicyclo[3.2.1]octane | N=1N(N=NC1)C12CCCN(CC1)C2 | C8H13N5
reactant | 5-bromotetrazole | BrC1=NN=NN1 | CHBrN4
product | (±) 5-(5-Bromotetrazol-2-yl)-1-azabicyclo[3.2.1]octane | 0.16 g, 56% | BrC=1N=NN(N1)C12CCCN(CC1)C2 | C8H12BrN5
